US07425631B2
Step A. Preparation of (6-Bromo-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-carbamic acid tert-butyl ester.
To a solution of (t-Boc)2O (3.28 g, 15 mmol) and 2-amino-6-bromo-1,2,3,4-tetrahydronaphthalene (3.94 g, 15 mmol) in DMF (10 mL) was added dropwise Et3N (3.0 g, 30 mmol) at 0° C. After stirring 3 h at RT, the reaction solution was diluted with EtOAc/Hexane (2:1), washed with H2O, dried over Na2SO4 and evaporated to afford the title compound as a white solid.

reactant | (t-Boc)2O | 15 mmol, 3.28 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-6-bromo-1,2,3,4-tetrahydronaphthalene | 15 mmol, 3.94 g | NC1CC2=CC=C(C=C2CC1)Br | C10H12BrN
reactant | Et3N | 30 mmol, 3.0 g | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | (6-Bromo-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CC2=CC=C(C=C2CC1)Br)=O | C15H20BrNO2
